US04430343
In the same manner as described in Example 1 using 2-chloro-1-[2-(phenoxy)ethyl]benzimidazole (3.00 g), N-methylpiperazine (3.00 g) and fumaric acid (2.14 g), there are obtained crude crystals, which are recrylstallized from ethyl acetate-ethanol to give 1-[2-(phenoxy)ethyl]-2-(4-methyl-1-piperazinyl)benzimidazole.3/2 fumarate (2.99 g) as pale yellow plates, m.p. 152°-153.5° C.

reactant | 2-chloro-1-[2-(phenoxy)ethyl]benzimidazole | 3.00 g | ClC1=NC2=C(N1CCOC1=CC=CC=C1)C=CC=C2 | C15H13ClN2O
reactant | N-methylpiperazine | 3.00 g | CN1CCNCC1 | C5H12N2
reactant | fumaric acid | 2.14 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | 1-[2-(phenoxy)ethyl]-2-(4-methyl-1-piperazinyl)benzimidazole | O(C1=CC=CC=C1)CCN1C(=NC2=C1C=CC=C2)N2CCN(CC2)C | C20H24N4O
